* C:\Users\Administrator\Desktop\Workspace\AnalogueElectronics-Notebook\PowerAmplifiers\Class_C.asc
* Generated by LTspice 26.0.1 for Windows.
R1 Input_signal 0 68k
Q1 N001 Input_signal 0 0 NPN
C1 VCC N001 2.5n
L2 N001 VCC 10µ Rser=1m
V1 VCC 0 12
V2 Input_signal 0 SINE(0 1 1Meg 0 0 0 5)
R2 N002 0 2k
C2 N002 N001 47n
.model NPN NPN
.model PNP PNP
.lib C:\Users\Administrator\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 6u
.backanno
.end
